US09401482B2
4-(3-Bromophenyl)dibenzo[b,d]thiophene (14.14 g, 41.7 mmol) was dissolved in dioxane (200 mL) to give a colorless solution. 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) (12.70 g, 50.0 mmol) was added as one portion, followed by potassium acetate (8.18 g, 83 mmol), Pd2(dba)3 (0.382 g, 0.417 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (dppf, 0.254 g, 0.834 mmol), then reaction mixture was degassed. Refluxed overnight under N2, cooled down, diluted with ethyl acetate (150 mL), washed with brine, NaHSO3 and LiCl 10% aq. sol. Filtered, evaporated, the residue was purified by column chromatography (silica 250 g, hex/dcm 9:1), providing 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as white solid, 12.8 g (80% yield).

reactant | 4-(3-Bromophenyl)dibenzo[b,d]thiophene | 41.7 mmol, 14.14 g | BrC=1C=C(C=CC1)C1=CC=CC2=C1SC1=C2C=CC=C1 | C18H11BrS
reactant | 4,4,4′,4′,5,5,5′,5′-Octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 50.0 mmol, 12.70 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 83 mmol, 8.18 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.417 mmol, 0.382 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.834 mmol, 0.254 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(3-(dibenzo[b,d]thiophen-4-yl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 80% yield | C1=CC=C(C=2SC3=C(C21)C=CC=C3)C=3C=C(C=CC3)B3OC(C(O3)(C)C)(C)C | C24H23BO2S
